US04770689
To a stirred solution of 7 parts of R-(+) ethyl 1-(1-phenylethyl)-1H-imidazole-5-carboxylate in 19.5 parts of iodomethane were added 21.3 parts of dichloromethane and the whole was stirred for 24 hours at room temperature. The reaction mixture was evaporated and the residue was crystallized from 2-propanol. The product was filtered off and washed with petroleum ether, yielding 7.03 parts of 5-ethoxycarbonyl-3-methyl-1-(1-phenylethyl)-1H-imidazolium iodide; mp. 159.5° C.; [α]D =-62.79° (10% water).

reactant | R-(+) ethyl 1-(1-phenylethyl)-1H-imidazole-5-carboxylate | CCOC(=O)C1=CN=CN1C(C)C2=CC=CC=C2 | C14H16N2O2
reactant | iodomethane | IC | CH3I
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-ethoxycarbonyl-3-methyl-1-(1-phenylethyl)-1H-imidazolium iodide | [I-].C(C)OC(=O)C1=CN(C[NH+]1C(C)C1=CC=CC=C1)C | InChI=1S/C15H20N2O2.HI/c1-4-19-15(18)14-10-16(3)11-17(14)12(2)13-8-6-5-7-9-13;/h5-10,12H,4,11H2,1-3H3;1H
